Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1],7.70039899
[H:1].[O:2]=[C:3]([C:4]([H:5])[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([C:4]([H:5])[H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.96856806898
[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10],-3.05449661577
[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-4.77384010523
[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.59299222467
[C:7](=[O:8])[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],-3.29724892199
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.5141699762800003
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11](\[H:12])[O:13][H:14],1.88778732832
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6][H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.37973757884
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7]=[C:8][C:9]([H:10])([H:11])[H:12],-1.82080564555
[H:9].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.8105810016
[H:11].[H:1][O:2][C:3]1=[C:4]([H:5])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:12]1([H:13])[H:14]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14],-4.53630144876
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],3.92104108437
[C:4]([H:5])#[C:6][C:7]([H:8])[O:9][H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10],-5.14399565762
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[O:9]=[C:10][C:11]([H:12])([H:13])[H:14],0.7651999862600001
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[C:3]([H:4])[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2],3.9841723316
[C:1]#[C:2].[C:3]([H:4])([H:5])=[C:6][O:7][C:8][H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][H:9],-2.9063575259
[H:1].[O:2][C@@:3]([H:4])([C:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.3473751062
[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-6.07191201241
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13],4.18944961285
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.98989150858
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([O:3][C:4]([H:5])[H:6])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7],4.124689836540003
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])[H:7])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:8],4.53294932725
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2],0.783567275342
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.5741721678300005
[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:9][H:10].[C:7][H:8],5.97839750337
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4][H:5].[O:6]=[C:7]([H:8])[C:9]([H:10])[H:11],3.4727092923100003
